US07432270B2
2-Thioureidomethyl-piperidine-1-carboxylic acid tert butyl ester
Benzoyl chloride (1.2 ml) was added dropwise to sodium thiocyanate (0.90 g) in acetone (50 ml). When the addition was complete the mixture was refluxed for 15 minutes, cooled to room temperature and (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester (2.0 g) in acetone (5 ml) added. The mixture was refluxed for 2 hours, cooled to room temperature and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, 0-10% (9:1 methanol/ammonia) in dichloromethane eluant) to give the title product (1.95 g).

reactant | Benzoyl chloride | 1.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium thiocyanate | 0.90 g | [S-]C#N.[Na+]
reactant | (RS) 2-aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-Thioureidomethyl-piperidine-1-carboxylic acid tert butyl ester | 1.95 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC(=S)N | C12H23N3O2S
